US05556860
Synthesis of 3-[1-(3-acetoxybenzyl)piperidin-4-yl]-4phenyl-3,4-dihydro-2(1H)-quinazolinone
To a solution of 207 mg (0.5 mmol) of 3-[1-(3-hydroxybenzyl)piperidin-4-yl]-4-phenyl-3,4-dihydro-2(1H)quinazolinone in 3 mL of pyridine was added 61 mg (0.6 mmol) of acetic anhydride, and the mixture was stirred for 12 hours at ambient temperature. The reaction mixture was poured into water, and the mixture was extracted with ethyl acetate. The organic layer separated was washed with water and then with brine, dried on sodium sulfate and then concentrated in vacuo. The residue was purified by means of column chromatography (silica gel, 1:9 methanol:chloroform) to give 187 mg (0.41 mmol) of the title compound.

reactant | 3-[1-(3-hydroxybenzyl)piperidin-4-yl]-4-phenyl-3,4-dihydro-2(1H)quinazolinone | 0.5 mmol, 207 mg | OC=1C=C(CN2CCC(CC2)N2C(NC3=CC=CC=C3C2C2=CC=CC=C2)=O)C=CC1 | C26H27N3O2
reactant | acetic anhydride | 0.6 mmol, 61 mg | C(C)(=O)OC(C)=O | C4H6O3
reactant | water | O | H2O
solvent | pyridine | 3 mL | N1=CC=CC=C1 | C5H5N
product | 3-[1-(3-acetoxybenzyl)piperidin-4-yl]-4phenyl-3,4-dihydro-2(1H)-quinazolinone | 0.41 mmol, 187 mg | C(C)(=O)OC=1C=C(CN2CCC(CC2)N2C(NC3=CC=CC=C3C2C2=CC=CC=C2)=O)C=CC1 | C28H29N3O3
